US04241058
To a solution of 4.5 g of 1-[3-(p-tert.butyl-phenyl)-2-methyl-2-propenyl]-piperidine in 125 ml of alcohol are added 1.7 ml of 32% hydrochloric acid and subsequently 1.5 g of 5% palladium/carbon and the mixture is then hydrogenated. After completion of the hydrogen uptake, the catalyst is filtered, the filtrate is treated with 200 ml of 10% sodium hydroxide and extracted with ether. The combined ether extracts are washed neutral with water, dried and evaporated. By distillation there is obtained pure 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine of boiling point 104° C./0.032 Torr.

reactant | 1-[3-(p-tert.butyl-phenyl)-2-methyl-2-propenyl]-piperidine | 4.5 g | C(C)(C)(C)C1=CC=C(C=C1)C=C(CN1CCCCC1)C | C19H29N
reactant | hydrochloric acid | 1.7 ml | Cl | ClH
catalyst | palladium/carbon | 1.5 g | [Pd] | Pd
product | 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C19H31N
